### PR TITLE
[Merged by Bors] - feat(Algebra/Order): characterize `floor a` and `ceil a` based on whether `a` is integer

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Floor.lean [hunk 1]
```diff
@@ -1196,6 +1196,20 @@ theorem floor_le_ceil (a : α) : ⌊a⌋ ≤ ⌈a⌉ :=
 theorem floor_lt_ceil_of_lt {a b : α} (h : a < b) : ⌊a⌋ < ⌈b⌉ :=
   cast_lt.1 <| (floor_le a).trans_lt <| h.trans_le <| le_ceil b
 
+lemma floor_eq_self_iff_mem (a : α) : ⌊a⌋ = a ↔ a ∈ Set.range Int.cast := by
+  aesop
+
+lemma ceil_eq_self_iff_mem (a : α) : ⌈a⌉ = a ↔ a ∈ Set.range Int.cast := by
+  aesop
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Floor.lean:1203]: Please move this into the `#### ceil` section

File: Mathlib/Algebra/Order/Floor.lean [hunk 2]
```diff
@@ -1196,6 +1196,20 @@ theorem floor_le_ceil (a : α) : ⌊a⌋ ≤ ⌈a⌉ :=
 theorem floor_lt_ceil_of_lt {a b : α} (h : a < b) : ⌊a⌋ < ⌈b⌉ :=
   cast_lt.1 <| (floor_le a).trans_lt <| h.trans_le <| le_ceil b
 
+lemma floor_eq_self_iff_mem (a : α) : ⌊a⌋ = a ↔ a ∈ Set.range Int.cast := by
+  aesop
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Floor.lean:1200]: Please move this above `floor_le_ceil`

File: Mathlib/Algebra/Order/Floor.lean [hunk 3]
```diff
@@ -1196,6 +1196,20 @@ theorem floor_le_ceil (a : α) : ⌊a⌋ ≤ ⌈a⌉ :=
...
+lemma ceil_eq_self_iff_mem (a : α) : ⌈a⌉ = a ↔ a ∈ Set.range Int.cast := by
+  aesop
+
+lemma ceil_eq_floor_add_one_iff_not_mem (a : α) : ⌈a⌉ = ⌊a⌋ + 1 ↔ a ∉ Set.range Int.cast := by
+  refine ⟨fun h ht => ?_, fun h => le_antisymm (Int.ceil_le_floor_add_one _) <|
+    Int.add_one_le_ceil_iff.mpr <|
+    lt_of_le_of_ne (Int.floor_le a) ((iff_false_right h).mp (floor_eq_self_iff_mem a))⟩
+  have := ((floor_eq_self_iff_mem _).mpr ht).trans ((ceil_eq_self_iff_mem _).mpr ht).symm
+  rw [Int.cast_inj] at this
+  linarith
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Floor.lean:1211]: This feels a bit overgolfed, but won't block on changing it

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
bors d+
